US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-(2-methoxyethoxy)quinolin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 30-1 by using 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-ol (prepared in analogy to the one in Example 29), 1-bromo-2-methoxyethane and propane-1,3-diamine. MS obsd. (ESI+) [(M+H)+] 471, 1H NMR (400 MHz, CD3OD) δ ppm 8.10-8.05 (d, J=8 Hz, 1 H), 7.90-7.83 (d, J=7.6 Hz, 1 H), 7.77-7.68 (q, J=9.2 Hz, 2 H), 7.60-7.52 (m, 2 H), 7.42-7.36 (m, 1 H), 5.95 (s, 1 H), 5.30 (s, 2 H), 4.56-4.45 (m, 2 H), 4.22-4.18 (t, J=2.8 Hz, 2 H), 3.80-3.75 (t, J=2.8 Hz, 2 H), 3.75-3.70 (t, J=4.4 Hz, 2 H), 3.65-3.58 (t, J=6.8 Hz, 2 H), 3.42 (s, 3 H), 3.15-3.09 (t, J=7.6 Hz, 2 H), 2.16-2.05 (m, 2 H).

reactant | 4-chloro-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinolin-6-ol | ClC1=CC(=NC2=CC=C(C=C12)O)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C18H15ClN2O3S
reactant | 1-bromo-2-methoxyethane | BrCCOC | C3H7BrO
reactant | propane-1,3-diamine | C(CCN)N | C3H10N2
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-(2-methoxyethoxy)quinolin-4-yl]propane-1,3-diamine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NCCCN)OCCOC)=O | C24H30N4O4S
